//============================================================================
// INDUCTOR
// Lxx NP NN 
//      [MOD[EL]=MNAME] [DCFEED] [VAL] [M=VAL1] [T[EMP]=VAL] [DTEMP=VAL]
//    + [IC=VAL3] [TC1=T1] [TC2=T2] [TC3=T3] [R=VAL4] [STATISTICAL=0|1]
//
//      POLY VAL {LN} [IC=VAL] [R=VAL] [TC1=T1] [TC2=T2] [TC3=T3]
//    + [STATISTICAL=0|1]
//
//      [VALUE=]{EXPR} [ACDERFUNC=0|1] [RESTORE_CAUSALITY=0|1]
//    + [R=VAL|R VALUE=EXPR|R
//    + TABLE {fval rval}] [TC1=T1] [TC2=T2] [TC3=T3] [STATISTICAL=0|1]
//
//      {port_list} KMATRIX=data_block [STATISTICAL=0|1]
//
//      {port_list} RELUCTANCE=({rn,cn,valn}) <options> [STATISTICAL=0|1]
//
//      {port_list} RELUCTANCE {FILE=”file”} <options> [STATISTICAL=0|1]
//============================================================================
l1 n13 n8 5u
l1 n10 n5 poly 7u 0.15 0.03
l3 n1 n2 lval
l1 1 2 value={2u*v(3, 4)*i(v5)}
l1 1 s lmodel 0.5ph
l1 1 s lmodel 2ph
L1 1 2 MOD=foo

//============================================================================
// Coupled Inductor - K**
// Kxx Lyy Lzz KVAL [KR=KRVAL]
//============================================================================
l7 4 3 0.7m
l8 5 9 0.4m
k12 l7 l8 0.2

// ============================================================================
// SPICE
// ============================================================================
// Inductors
LLINK 42 69 1UH
LSHUNT 23 51 10U IC=15.7MA

// Coupled (Mutual) Inductors
K43 LAA LBB 0.999
KXFRMR L1 L2 0.87
